US07897631B2
As in the synthesis of N-(2-azidoethyl)tetradecanamide, 2,3,4,5,6-pentamethylbenzene-1-sulfonyl chloride (0.304 g, 1.23 mmol) was reacted with 2-azidoethanamine (0.106 g, 1.23 mmol) and triethylamine (0.249 g, 2.46 mmol) in dichloromethane (5 mL) to give N-(2-azidoethyl)-2,3,4,5,6-pentamethylbenzenesulfonamide (0.296 g, 81%). 1H NMR (300 MHz, CDCl3) δ 5.12 (t, 1H) δ 3.35 (t, 2H), δ 3.05 (q, 2H), 2.59 (s, 6H), δ 2.28 (s, 3H), 2.24 (s, 6H) ppm; 13C NMR (75 MHz, CDCl3) δ 139.9, 136.1, 135.2, 134.2, 51.1, 42.3, 19.2, 17.9, 17.3 ppm; HRMS (ESI) calcd for C13H20N4O2S (M+) 296.1307. found 296.1304.

reactant | N-(2-azidoethyl)tetradecanamide | N(=[N+]=[N-])CCNC(CCCCCCCCCCCCC)=O | C16H32N4O
reactant | 2,3,4,5,6-pentamethylbenzene-1-sulfonyl chloride | 1.23 mmol, 0.304 g | CC1=C(C(=C(C(=C1C)C)C)C)S(=O)(=O)Cl | C11H15ClO2S
reactant | 2-azidoethanamine | 1.23 mmol, 0.106 g | N(=[N+]=[N-])CCN | C2H6N4
reactant | triethylamine | 2.46 mmol, 0.249 g | C(C)N(CC)CC | C6H15N
solvent | dichloromethane | 5 mL | ClCCl | CH2Cl2
product | N-(2-azidoethyl)-2,3,4,5,6-pentamethylbenzenesulfonamide | 0.296 g, 81% | N(=[N+]=[N-])CCNS(=O)(=O)C1=C(C(=C(C(=C1C)C)C)C)C | C13H20N4O2S
